US07960561B2
N-(Benzimidazol-2-yl)-3,5-dichloroaniline
The title compound was prepared from 2-chlorobenzimidazole and 3,5-dichloroaniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (solid, mp 317-318° C.). MS(ES+) m/z 278 (M+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | N-(Benzimidazol-2-yl)-3,5-dichloroaniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=CC(=C2)Cl)Cl | C13H9Cl2N3
